US05015640
starting from 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile and benzyl alcohol, there is obtained benzyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as an oil, mas spectrum m/e: M+ 328 (4), 237 (44), 194 (100), 179 (21), 165 (30), 91 (62);

reactant | 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C#N | C15H12N2
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
product | benzyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC3=CC=CC=C3)=N | C22H20N2O
